US04894386
Manganese dioxide (240 g) was added to a mechanically stirred solution of 6-hydroxymethylindole (40.7 g) in methylene chloride (1.6 liter). The mixture was stirred for 18 hr, filtered through a pad of diatomaceous earth, the filter cake washed with methylene chloride and chloroform, and the filtrate evaporated to give 6-formylindole (30.55 g) as a yellow solid. The filter cake was washed with tetrahydrofuran and the washings evaporated to give a further crop of 6-formylindole (2.35 g, 82% combined yield); partial NMR (250 MHz, DMSO-d6): 6.58(m, 1H, H3 -indole), 10.00(s, 1H, CHO), 11.71(br s, 1H, NH).

reactant | 6-hydroxymethylindole | 40.7 g | OCC1=CC=C2C=CNC2=C1 | C9H9NO
solvent | methylene chloride | 1.6 liter | C(Cl)Cl | CH2Cl2
catalyst | Manganese dioxide | 240 g | [O-2].[O-2].[Mn+4]
product | 6-formylindole | 30.55 g | C(=O)C1=CC=C2C=CNC2=C1 | C9H7NO
